US08802861B2
Thiosemicarbazide (455.69 mg; 5.00 mmol; 1.00 eq.) and 3-aminobenzonitrile (590.69 mg; 5.00 mmol; 1.00 eq.) are heated in TFA (2.50 ml) at 60° C. for 4 h00. The mixture become a thick yellowish solution. The reaction mixture is poured into ice-water (15 mL) and neutralized with saturated NaHCO3 aqueous solution. The resulting precipitate is filtered, affording 5-(3-aminophenyl)-1,3,4-thiadiazol-2-amine as white-off solid (291.00 mg; 30.27%).

reactant | Thiosemicarbazide | 5.00 mmol, 455.69 mg, 1.00 eq. | NNC(=S)N | CH5N3S
reactant | 3-aminobenzonitrile | 5.00 mmol, 590.69 mg, 1.00 eq. | NC=1C=C(C#N)C=CC1 | C7H6N2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | TFA | 2.50 ml | C(=O)(C(F)(F)F)O | C2HF3O2
product | 5-(3-aminophenyl)-1,3,4-thiadiazol-2-amine | quantitative yield | NC=1C=C(C=CC1)C1=NN=C(S1)N | C8H8N4S
